US06313151B1
D. N4-(4-tert-butylbenzoyl)-N3-(4-methoxybenzoyl)-3,4-pyridinediamine
Using 4-tert-butylbenzoyl chloride and a similar procedure to that described for Example 2, Part C, N3-(4-methoxybenzoyl)-3,4-pyridinediamine (300 mg, 1.23 mmol) yielded 243 mg (49%) of the title compound.

reactant | 4-tert-butylbenzoyl chloride | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | N3-(4-methoxybenzoyl)-3,4-pyridinediamine | 1.23 mmol, 300 mg | COC1=CC=C(C(=O)NC=2C=NC=CC2N)C=C1 | C13H13N3O2
product | N4-(4-tert-butylbenzoyl)-N3-(4-methoxybenzoyl)-3,4-pyridinediamine | 243 mg, 49% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C=NC=C2)NC(C2=CC=C(C=C2)OC)=O)C=C1 | C24H25N3O3
